2139-03-16 08:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2139-3-15**] 11:46 PM
   MRSA screen
 BLOOD CULTURED - At [**2139-3-16**] 05:33 AM
   BC x2
   Ortho recs: will take to OR tomorrow, around noon
   Allergies:
   Penicillins
   Hives;
   Morphine
   agitation;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-3-16**] 08:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 81 (71 - 95) bpm
   BP: 173/68(96) {104/47(61) - 173/73(96)} mmHg
   RR: 23 (23 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,000 mL
                                                                  1,000 mL
   PO:
             TF:
   IVF:
   1,000 mL
   Blood products:
   Total out:
                                                                     60 mL
                                                                    130 mL
   Urine:
                                                                     60 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,940 mL
                                                                    870 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   168 K/uL
   13.0 g/dL
   119 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.2 mEq/L
   25 mg/dL
   104 mEq/L
   138 mEq/L
   39.9 %
   8.3 K/uL
        [image002.jpg]
   CT CHEST:
   1. No pulmonary embolus or aortic dissection.
   2. Extensive mural thrombus within the thoracic aorta, particularly
   within
   the aortic arch.
   3. Evidence of prior granulomatous disease.
   4. 7 mm nodule in the right lower lobe. If clinically indicated, a
   chest CT
   in six months can be performed.
   5. T10 compression deformity of uncertain age.
                             [**2139-3-16**]  04:51 AM
   WBC
   8.3
   Hct
   39.9
   Plt
   168
   Cr
   1.1
   TropT
   0.11
   Glucose
   119
   Other labs: PT / PTT / INR:11.8/25.1/1.0, CK / CKMB /
   Troponin-T:182/6/0.11, Differential-Neuts:82.9 %, Lymph:11.1 %,
   Mono:4.1 %, Eos:1.5 %, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
   Assesment:
   This is a [**Age over 90 **] year-old female with a history of HTN who presents with a
   right hip fracture.
   .
   Plan:
   .
   #. Hip Fracture: Pt with right femoral neck fracture.  Needs surgery
   and currently optimized medically, cleared for surgery. Per the Revised
   [**Doctor Last Name 8364**] cardiac risk index (RCRI) pt with 1 risk factor given q-waves
   on ECG.  By adding a beta-blocker the patient's  perioperative rate of
   cardiac death, nonfatal myocardial infarction, and nonfatal cardiac
   arrest is approximately- 0.8 to 1.6% (versus 2.2 to 6.6% without a
   beta-blocker)
   (Auerbach, A, [**Doctor Last Name 8364**], L. Circulation [**2135**]; 113:1361)
   - OR tomorrow
   - will make pt NPO at midnight
   - heparin sq for ppx
   - start metoprolol 25mg [**Hospital1 **]
   - Ca & Vit D
   - Tylenol 1g q8 for pain
   - Dilaudid 0.125mg IV prn (pt with morphine allergy)
   - T&S
   .
   # Hypoxemia / Tachypnea: In setting of recent fracture, concerning for
   PE vs fat embolus. Pt also at risk of aspiration and pneumonia, however
   CTA chest without any evidence of this. Patient does not appear to be
   in volume overload, and it is unclear if she has any component of
   hypoxia at baseline
   - Supplemental O2 as needed
   - Not wheezing or requiring bronchodilators, will monitor
   - If fever / worsens, would consider interval chest x-ray
   .
   #. Demand Ischemia: Pt with elevated trop of 0.11 on admission and
   repeat, however with CK 233 to 182 and MB 6 -> 6, suggesting demand
   event and does not represent acute thrombus.  Spoke with cardiology who
   recommended no need for heparin.
   -- ASA 81mg daily, ok with ortho
   -- start metoprolol 25mg [**Hospital1 **]
   -- cont home Lisinopril, hold morning of surgery
   -- no indication for heparin gtt
   .
   #. Leukocytosis: Pt with elevated WBC of 13.8 and lactate of 4.2 on
   admission. No localizing signs of infection. CT did not show pneumonia.
   Pt without urinary complaints. No F/C. Likely reactive in the setting
   of her hip fracture. Additionally, lactate can be elevated in the
   setting of tachypnea. Pt hemodynamically stable.
   -- send UA and blood cx
   -- no indication for antibiotics at this time
   -- cont to trend fever and WBC
   .
   #. Fall: Pt with witnessed fall while walking with nurses aide. No
   history of head trauma and neurologically intact. Likely mechanical
   fall
   -- trend CE
   -- monitor on tele for arrhythmia
   -- consider CT-head if neuro exam changes
   .
   #. Delerium: Pt confused and delerious in the setting of her hip
   fracture.  Neuologically intact. No h/o of head trauma with fall.
   -- pain control as above
   -- zydis 2.5mg prn for agitation
   -- consider head CT-scan if neuro exam changes
   .
   #. HTN: On admission BP 155/64.
   -- cont home lisinopril and start metoprolol as above.
   .
   # FEN: NPO
   .
   # Access: PIV
   .
   # PPx: Hep SQ, PPI, bowel regimen
   .
   # Code: FULL (pt family reversed DNR/DNI for possible surgery)
   .
   # Dispo: ICU
   .
   # Comm: [**Name (NI) 1271**] (Daughter/ HCP)
   [**Name (NI) 1246**]: [**Telephone/Fax (1) 10964**]
   Cell: [**Telephone/Fax (1) 10965**]
   Husband: [**Telephone/Fax (1) 10966**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-3-15**] 11:55 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Pt seen and evaluated with team on rounds.  Please see note above for
   details of history and plan.
   [**Age over 90 **] year old woman with hypertension, fell and fractured hip. Had
   scattered wheezes, started on Vanc/Zosyn. ? NSTEMI
 started on heparin
   drip and began r/o.
   CTA was negative.
   After cards consult
 heparin stopped.
   Hct 39.9
   Creat 1.1
   PE:
   Alert oriented
   Lungs clear anteriorly
   Cor
 HS distant
   Extrem
 no edema. R leg shorter and turned out laterally
   Imp:
   Hip Fx
   No evidence of infection
 d/c IV AB
   No evidence of MI
 d/c IV heparin
   Time Spent: 30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2139-3-16**] 09:10 ------

2139-03-17 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**3-16**]
   -- Received small 500cc boluses during day to maintain urine output
   -- Uptitrated betablocker to 25mg TID, BP ~160's /60's
   -- Ortho to take to OR in the morning around noon
   -- Has active type and cross
   Allergies:
   Penicillins
   Hives;
   Morphine
   agitation;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-3-17**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 72 (63 - 86) bpm
   BP: 153/72(94) {104/54(77) - 189/84(105)} mmHg
   RR: 24 (19 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,048 mL
                                                                    327 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  1,688 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                    110 mL
   Urine:
                                                                    425 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,623 mL
                                                                    217 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   182 K/uL
   11.9 g/dL
   118 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   19 mg/dL
   108 mEq/L
   140 mEq/L
   36.2 %
   7.2 K/uL
        [image002.jpg]
                             [**2139-3-16**]  04:51 AM
                             [**2139-3-16**]  03:17 PM
                             [**2139-3-17**]  04:21 AM
   WBC
   8.3
   7.2
   Hct
   39.9
   39.4
   36.2
   Plt
   168
   182
   Cr
   1.1
   1.0
   0.8
   TropT
   0.11
   0.07
   Glucose
   119
   102
   118
   Other labs: PT / PTT / INR:12.2/28.6/1.0, CK / CKMB /
   Troponin-T:316/7/0.07, Differential-Neuts:82.9 %, Lymph:11.1 %,
   Mono:4.1 %, Eos:1.5 %, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   This is a [**Age over 90 **] year-old female with a history of HTN who presents with a
   right hip fracture.
   .
   Plan:
   .
   #. Hip Fracture: Pt with right femoral neck fracture.  Needs surgery
   and currently optimized medically, cleared for surgery. Per the Revised
   [**Doctor Last Name 8364**] cardiac risk index (RCRI) pt with 1 risk factor given q-waves
   on ECG.  By adding a beta-blocker the patient's  perioperative rate of
   cardiac death, nonfatal myocardial infarction, and nonfatal cardiac
   arrest is approximately- 0.8 to 1.6% (versus 2.2 to 6.6% without a
   beta-blocker)
   (Auerbach, A, [**Doctor Last Name 8364**], L. Circulation [**2135**]; 113:1361)
   - OR today
   - NPO since midnight
   - heparin sq for ppx
   - continued metoprolol 25mg TID
   - Ca & Vit D
   - Tylenol 1g q8 for pain
   - Dilaudid 0.125mg IV prn (pt with morphine allergy)
   - T&S
   .
   # Hypoxemia / Tachypnea: In setting of recent fracture, concerning for
   PE vs fat embolus. Pt also at risk of aspiration and pneumonia, however
   CTA chest without any evidence of this. Patient does not appear to be
   in volume overload, and it is unclear if she has any component of
   hypoxia at baseline
   - Supplemental O2 as needed
   - Not wheezing or requiring bronchodilators, will monitor
   - If fever / worsens, would consider interval chest x-ray
   .
   #. Demand Ischemia: Pt with elevated trop of 0.11 on admission and
   repeat, however with CK 233 to 182 and MB 6 -> 6, suggesting demand
   event and does not represent acute thrombus.  Spoke with cardiology who
   recommended no need for heparin.
   -- ASA 81mg daily, ok with ortho
   -- start metoprolol 25mg [**Hospital1 **]
   -- cont home Lisinopril, hold morning of surgery
   -- no indication for heparin gtt
   .
   #. Leukocytosis: Pt with elevated WBC of 13.8 and lactate of 4.2 on
   admission. No localizing signs of infection. CT did not show pneumonia.
   Pt without urinary complaints. No F/C. Likely reactive in the setting
   of her hip fracture. Additionally, lactate can be elevated in the
   setting of tachypnea. Pt hemodynamically stable.
   -- send UA and blood cx
   -- no indication for antibiotics at this time
   -- cont to trend fever and WBC
   .
   #. Fall: Pt with witnessed fall while walking with nurses aide. No
   history of head trauma and neurologically intact. Likely mechanical
   fall
   -- trend CE
   -- monitor on tele for arrhythmia
   -- consider CT-head if neuro exam changes
   .
   #. Delerium: Pt confused and delerious in the setting of her hip
   fracture.  Neuologically intact. No h/o of head trauma with fall.
   -- pain control as above
   -- zydis 2.5mg prn for agitation
   -- consider head CT-scan if neuro exam changes
   .
   #. HTN: On admission BP 155/64.
   -- cont home lisinopril and start metoprolol as above.
   .
   # FEN: NPO
   .
   # Access: PIV
   .
   # PPx: Hep SQ, PPI, bowel regimen
   .
   # Code: FULL (pt family reversed DNR/DNI for possible surgery)
   .
   # Dispo: ICU
   .
   # Comm: [**Name (NI) 1271**] (Daughter/ HCP)
   [**Name (NI) 1246**]: [**Telephone/Fax (1) 10964**]
   Cell: [**Telephone/Fax (1) 10965**]
   Husband: [**Telephone/Fax (1) 10966**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-3-16**] 01:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-03-17 12:32:00 Physician Attending Progress Note
Chief Complaint: right hip fracture.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Stable night no events.
   Allergies:
   Penicillins
   Hives;
   Morphine
   agitation;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   ASA 81mg, protonix, tylenol, heparin s/c tid, colace, vitamin D,
   calcium carbonate, lisinopril 20mg po daily, tylenol. lopressor 25 po
   ng tid.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-3-17**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.3
   HR: 66 (65 - 80) bpm
   BP: 139/58(78) {131/54(77) - 189/84(105)} mmHg
   RR: 29 (19 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,048 mL
                                                                    377 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  1,688 mL
                                                                    377 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                    370 mL
   Urine:
                                                                    425 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,623 mL
                                                                      7 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Chest Clear anteriorly
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.9 g/dL
   182 K/uL
   118 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   19 mg/dL
   108 mEq/L
   140 mEq/L
   36.2 %
   7.2 K/uL
        [image002.jpg]
                             [**2139-3-16**]  04:51 AM
                             [**2139-3-16**]  03:17 PM
                             [**2139-3-17**]  04:21 AM
   WBC
   8.3
   7.2
   Hct
   39.9
   39.4
   36.2
   Plt
   168
   182
   Cr
   1.1
   1.0
   0.8
   TropT
   0.11
   0.07
   Glucose
   119
   102
   118
   Other labs: PT / PTT / INR:12.2/28.6/1.0, CK / CKMB /
   Troponin-T:316/7/0.07, Differential-Neuts:82.9 %, Lymph:11.1 %,
   Mono:4.1 %, Eos:1.5 %, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR reviewed from [**3-15**]
   Assessment and Plan
 HYPOXEMIA: 100% on 3L clear CXR, and no PE on CT, ? fat embolus, ?
   atelectasis, continue supportive care for now.. will likely attempt
   gently diuresis post operatively.
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI): demand event,
   troponin trending down, continue lopressor, baby aspirin
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR): to OR today
   Delirium: continue behavioral reorientation.
   ICU Care
   Nutrition:
   Comments: NPO pending OR.
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-3-16**] 01:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 8379**]
   note, including assessment and plan. [**Age over 90 **] yo female admitted with right
   hip fracture, slight increase in cardiac enzymes which was felt to
   represent demand ischemia rather than an acute coronary process. Pt
   currently without complaints, appears comfortable. To OR for repair of
   hip fracture today.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2139-3-17**] 16:03 ------

2139-03-18 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2139-3-17**] 03:40 PM
 INVASIVE VENTILATION - START [**2139-3-17**] 06:37 PM
 OR RECEIVED - At [**2139-3-17**] 07:00 PM
 INVASIVE VENTILATION - STOP [**2139-3-18**] 12:32 AM
   -- Successful R Hip repair overnight
   -- Transiently hypotensive to 60/40, dopamine peripheral
   started/sedation weaned.  Able to wean dopamine ~ 10 minutes.
   -- Successful extubation ~ midnight
   Allergies:
   Penicillins
   Hives;
   Morphine
   agitation;
   Last dose of Antibiotics:
   Clindamycin - [**2139-3-17**] 08:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-3-17**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-3-18**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.1
   HR: 75 (62 - 91) bpm
   BP: 132/75(90) {69/33(41) - 175/76(103)} mmHg
   RR: 24 (14 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,834 mL
                                                                    755 mL
   PO:
             TF:
   IVF:
                                                                  2,834 mL
                                                                    755 mL
   Blood products:
   Total out:
                                                                    898 mL
                                                                    220 mL
   Urine:
                                                                    553 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,936 mL
                                                                    535 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 250 (250 - 250) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 96%
   ABG: ///24/
   Ve: 5.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   163 K/uL
   11.0 g/dL
   153 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.3 mEq/L
   17 mg/dL
   107 mEq/L
   139 mEq/L
   33.3 %
   6.4 K/uL
        [image002.jpg]
                             [**2139-3-16**]  04:51 AM
                             [**2139-3-16**]  03:17 PM
                             [**2139-3-17**]  04:21 AM
                             [**2139-3-17**]  09:07 PM
                             [**2139-3-18**]  04:47 AM
   WBC
   8.3
   7.2
   8.6
   6.4
   Hct
   39.9
   39.4
   36.2
   34.8
   33.3
   Plt
   168
   182
   168
   163
   Cr
   1.1
   1.0
   0.8
   0.8
   0.9
   TropT
   0.11
   0.07
   Glucose
   119
   102
   118
   116
   153
   Other labs: PT / PTT / INR:12.9/28.7/1.1, CK / CKMB /
   Troponin-T:316/7/0.07, Differential-Neuts:82.9 %, Lymph:11.1 %,
   Mono:4.1 %, Eos:1.5 %, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Microbiology: Blood Cx pending; UCx final (-)
   Assessment and Plan
 HYPOXEMIA
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
   This is a [**Age over 90 **] year-old female with a history of HTN who presents with a
   right hip fracture.
   .
   Plan:
   .
   #. Hip Fracture: Pt with right femoral neck fracture.  Needs surgery
   and currently optimized medically, cleared for surgery. Pain well
   controlled.  Per the Revised [**Doctor Last Name 8364**] cardiac risk index (RCRI) pt with
   1 risk factor given q-waves on ECG.  By adding a beta-blocker the
   patient's  perioperative rate of cardiac death, nonfatal myocardial
   infarction, and nonfatal cardiac arrest is approximately- 0.8 to 1.6%
   (versus 2.2 to 6.6% without a beta-blocker)
   (Auerbach, A, [**Doctor Last Name 8364**], L. Circulation [**2135**]; 113:1361)
   - OR today
   - NPO since midnight
   - heparin sq for ppx
   - continued metoprolol 25mg TID
   - Ca & Vit D
   - Tylenol 1g q8 for pain
   - Dilaudid 0.125mg IV prn (pt with morphine allergy)
 well controlled
   - T&S
   .
   # Hypoxemia / Tachypnea: Improving, likely secondary to atelectasis.
   - Supplemental O2 as needed
   - Not wheezing or requiring bronchodilators, will monitor
   - If fever / worsens, would consider interval chest x-ray
   - Incentive spirometer
   - Reassess after operation if diuresis may help.
   .
   #. Demand Ischemia: Pt with elevated trop of 0.11 on admission and
   repeat, however with CK 233 to 182 and MB 6 -> 6, suggesting demand
   event and does not represent acute thrombus.  Spoke with cardiology who
   recommended no need for heparin.
   -- ASA 81mg daily, ok with ortho
   -- start metoprolol 25mg [**Hospital1 **]
   -- no indication for heparin gtt
   .
   #. Leukocytosis: Pt with elevated WBC of 13.8 and lactate of 4.2 on
   admission. Currently normalized
   .
   #. Fall: Pt with witnessed fall while walking with nurses aide. No
   history of head trauma and neurologically intact. Likely mechanical
   fall
   .
   #. Delerium: Pt confused and delerious in the setting of her hip
   fracture.  Neuologically intact. No h/o of head trauma with fall.
   -- pain control as above
   -- zydis 2.5mg prn for agitation
   -- consider head CT-scan if neuro exam changes
   .
   #. HTN: On admission BP 155/64.
   -- cont home lisinopril  metoprolol
   .
   # FEN: NPO
   .
   # Access: PIV
   .
   # PPx: Hep SQ, PPI, bowel regimen
   .
   # Code: FULL (pt family reversed DNR/DNI for possible surgery)
   .
   # Dispo: ICU
   .
   # Comm: [**Name (NI) 1271**] (Daughter/ HCP)
   [**Name (NI) 1246**]: [**Telephone/Fax (1) 10964**]
   Cell: [**Telephone/Fax (1) 10965**]
   Husband: [**Telephone/Fax (1) 10966**]
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2139-3-16**] 01:43 PM
   22 Gauge - [**2139-3-17**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2139-03-18 11:16:00 Physician Attending Progress Note
Chief Complaint:  hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 OR SENT - At [**2139-3-17**] 03:40 PM
 INVASIVE VENTILATION - START [**2139-3-17**] 06:37 PM
 OR RECEIVED - At [**2139-3-17**] 07:00 PM
 INVASIVE VENTILATION - STOP [**2139-3-18**] 12:32 AM
   Allergies:
   Penicillins
   Hives;
   Morphine
   agitation;
   Last dose of Antibiotics:
   Clindamycin - [**2139-3-17**] 08:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-3-18**] 08:44 AM
   Other medications:
   1L [**Last Name (LF) 2770**], [**First Name3 (LF) **], heparin s/c, vitamin D, calcium carbonate, lisinpril,
   clinidamycin, docusate, tylenol.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-3-18**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 74 (62 - 91) bpm
   BP: 130/66(82) {69/33(41) - 175/76(103)} mmHg
   RR: 30 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,834 mL
                                                                    788 mL
   PO:
             TF:
   IVF:
                                                                  2,834 mL
                                                                    788 mL
   Blood products:
   Total out:
                                                                    898 mL
                                                                    255 mL
   Urine:
                                                                    553 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,936 mL
                                                                    533 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 250 (250 - 250) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: ///24/
   Ve: 5.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.0 g/dL
   163 K/uL
   153 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.3 mEq/L
   17 mg/dL
   107 mEq/L
   139 mEq/L
   33.3 %
   6.4 K/uL
        [image002.jpg]
                             [**2139-3-16**]  04:51 AM
                             [**2139-3-16**]  03:17 PM
                             [**2139-3-17**]  04:21 AM
                             [**2139-3-17**]  09:07 PM
                             [**2139-3-18**]  04:47 AM
   WBC
   8.3
   7.2
   8.6
   6.4
   Hct
   39.9
   39.4
   36.2
   34.8
   33.3
   Plt
   168
   182
   168
   163
   Cr
   1.1
   1.0
   0.8
   0.8
   0.9
   TropT
   0.11
   0.07
   Glucose
   119
   102
   118
   116
   153
   Other labs: PT / PTT / INR:12.9/28.7/1.1, CK / CKMB /
   Troponin-T:316/7/0.07, Differential-Neuts:82.9 %, Lymph:11.1 %,
   Mono:4.1 %, Eos:1.5 %, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: reviewed CXR from yesterday
   Assessment and Plan
 HYPOXEMIA: improved now 97% on RA
 demand ischemia preop: on lopressor and [**Year (4 digits) **]
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR): s/p ORIF, doing well,
   will discuss with Ortho re PT and weightbearing status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-3-16**] 01:43 PM
   22 Gauge - [**2139-3-17**] 08:00 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 8379**]
   note, including assessment and plan.
    [**Age over 90 **] yo female admitted with right hip fracture, slight increase in
   cardiac enzymes which was felt to represent demand ischemia rather than
   an acute coronary process, tachycardia. She underwent hip fracture
   repair yesterday, and returned to the MICU still intubated. She was
   extubated at midnight, with oxygen now weaned to off. Initially
   hypotensive post-op, but BP improved after sedation weaned. Resumed on
   BP meds earlier this morning.
   Currently  without complaints, looks comfortable, states pain
   controlled
   Sats 94-96% RA
   A/p:
   [**Age over 90 **] yo female admitted with
   1. Hip fracture: s/p repair yesterday. Ortho following.
   2. elevated cardiac enzymes: felt to represent a demand process per
   cards, on lopressor and [**Age over 90 68**] but no further management
   3. Hypoxia: resolved without obvious intervention. Continue to
   encourage incentive [**Location (un) 4928**].
   Appears appropriate for floor transfer.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2139-3-18**] 15:52 ------